US08293768B2
Synthesis of methyl 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate
To a solution of methyl 2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate (0.50 g, 2.20 mmol) in N,N-dimethylformamide (15 mL) was added sodium hydride (0.084 g, 3.52 mmol, 60% in mineral oil) at 0° C. The reaction mixture was stirred at 0° C. for 0.5 hours, followed by the addition of (bromomethyl)cyclopropane (0.36 g, 2.64 mmol) and catalytic amount of tetra-n-butylammonium iodide. The reaction mixture was stirred at ambient temperature for 20 hours. The solvent was concentrated in vacuo, then diluted with ethyl acetate (200 mL) and washed with water (150 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with ethyl acetate/hexane (2/3) to afford the title compound as a colorless solid in 24% yield (0.15 g): mp 124-126° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.01 (s, 1H), 4.15-4.10 (m, 2H), 3.83 (s, 3H), 3.73-3.68 (m, 2H) 3.20 (d, J=7.1 Hz, 2H), 0.97-0.92 (m, 1H), 0.61-0.53 (m, 2H), 0.30-0.20 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 163.4, 162.6, 155.0, 145.2, 121.6, 52.0, 48.6, 42.2, 42.1, 8.9, 3.4; MS (ES+) m/z 282.2 (M+1).

reactant | methyl 2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | 2.20 mmol, 0.50 g | O=C1N(CCN1)C=1SC(=CN1)C(=O)OC | C8H9N3O3S
reactant | sodium hydride | 3.52 mmol, 0.084 g | [H-].[Na+]
reactant | (bromomethyl)cyclopropane | 2.64 mmol, 0.36 g | BrCC1CC1 | C4H7Br
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | methyl 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | 24% yield | C1(CC1)CN1C(N(CC1)C=1SC(=CN1)C(=O)OC)=O | C12H15N3O3S
